US06528525B1
(g) Ethyl 3-[4-(2-aminoethoxy)phenyl]-2-(4-fluorophenoxy)propionate
In a similar manner to that described in Reference example 1(d), a reaction was carried out using ethyl 3-[4-(2-azidoethoxy)phenyl]-2-(4-fluorophenoxy)propionate (2.60 g), which is the product of Reference example 37(f), and palladium on carbon (5%, 250 mg) and the reaction mixture was treated to afford the title compound (2.30 g) as a colorless oil.

reactant | ethyl 3-[4-(2-azidoethoxy)phenyl]-2-(4-fluorophenoxy)propionate | 2.60 g | N(=[N+]=[N-])CCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)F | C19H20FN3O4
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | Ethyl 3-[4-(2-aminoethoxy)phenyl]-2-(4-fluorophenoxy)propionate | 2.30 g | NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)F | C19H22FNO4
